US07456164B2
N-{[4-(4-[(1-isopropylpiperidin-4-yl)oxy]phenyl)tetrahydro-2H-pyran-4-yl]methyl}-N-methylacetamide
To a stirred solution of N-[(4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]-N-methylamine (120 mg, 0.347 mmol) and triethylamine (121 μl, 0.867 mmol) in dichloromethane (1 ml) at 0° C. was added dropwise acetic anhydride (36 μl, 0.382 mmol). The reaction mixture was warmed to ambient temperature until reaction complete. Water (1 ml) and dichloromethane (15 ml) added to the reaction, the extracted with saturated NaHCO3 (2×10 ml). Organic washings were dried over Na2SO4 and concentrated in vacuo to give the title compound as an oil (113 mg, 83%). 1H NMR (400 MHz, CDCl3) δ 7.10-7.22 (2 doublets due to rotamers, 2H), 6.80 (d, 2H), 4.24-4.38 (m, 1H), 3.79-3.80 (m, 2H), 3.42-3.60 (m, 2H), 2.70-2.90 (m, 3H), 2.39-2.48 (m, 2H), 3.20-3.35 (singlet and doublet due to rotamers, 3H), 1.75-2.10 (m, 11H), 1.10 (d, 6H).

reactant | N-[(4-{4-[(1-isopropylpiperidin-4-yl)oxy]phenyl}tetrahydro-2H-pyran-4-yl)methyl]-N-methylamine | 0.347 mmol, 120 mg | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CNC | C21H34N2O2
reactant | triethylamine | 0.867 mmol, 121 μl | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.382 mmol, 36 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | 1 ml | O | H2O
reactant | dichloromethane | 1 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-{[4-(4-[(1-isopropylpiperidin-4-yl)oxy]phenyl)tetrahydro-2H-pyran-4-yl]methyl}-N-methylacetamide | 113 mg, 83% | C(C)(C)N1CCC(CC1)OC1=CC=C(C=C1)C1(CCOCC1)CN(C(C)=O)C | C23H36N2O3
